US07943652B2
Step a: Preparation of 2-tert-butyl-3-(2,2-dimethoxy-ethyl)-1H-indol-6-ylamine
To a solution of 2-tert-butyl-3-(2,2-dimethoxy-ethyl)-6-nitro-1H-indole (611 mg, 2 mmol) in methanol was added palladium hydroxide on carbon (100 mg). The flask was evacuated and purged with hydrogen gas three times. The reaction was stirred under hydrogen for 16 h and filtered through a pad of Celite, which was rinsed with methanol. The organic solution was combined and concentrated in vacuo and the residue was purified via flash chromatography to give the desired product (347 mg, 63% yield).

reactant | 2-tert-butyl-3-(2,2-dimethoxy-ethyl)-6-nitro-1H-indole | 2 mmol, 611 mg | C(C)(C)(C)C=1NC2=CC(=CC=C2C1CC(OC)OC)[N+](=O)[O-] | C16H22N2O4
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide on carbon | 100 mg | [OH-].[OH-].[Pd+2]
product | 2-tert-butyl-3-(2,2-dimethoxy-ethyl)-1H-indol-6-ylamine | 347 mg, 63% yield | C(C)(C)(C)C=1NC2=CC(=CC=C2C1CC(OC)OC)N | C16H24N2O2
